US07572809B2
Similar procedure as described in example 376 was used, starting from 1-Bromo-7-fluoro-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol, isopropanol, to give 7-Fluoro-1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol. LC-MS: m/e 317 (MH+).

reactant | 1-Bromo-7-fluoro-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | BrC1=NC(=CC2=CC(=C(C=C12)F)O)NC1=NNC(=C1)C | C13H10BrFN4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 7-Fluoro-1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | FC1=C(C=C2C=C(N=C(C2=C1)OC(C)C)NC1=NNC(=C1)C)O | C16H17FN4O2
